US04939241
To a solution of O-acetyl-N-benzyloxycarbonyl-L-threonine (1 g) and benzyl N-trifluoroacetyl-L-serinate (987 mg) in methylene chloride (20 ml) was added N,N-diethylaminopropyl-N'-ethylcarbodiimide hydrochloride (1.22 g) and 4-N,N-dimethylaminopyridine (77.8 mg) at room temperature. After stirring for an hour at room temperature, the reaction mixture was washed successively with aqueous hydrogen chloride, water, 10% aqueous sodium hydrogen carbonate and brine. After drying over sodium sulfate, the methylene chloride extract was filtered and concentrated. The residue was chromatographed on silica gel (20 g) eluting successively with a mixture of hexane and methylene chloride (1:1), methylene chloride and a mixture of methylene chloride and acetone (125:1) to give benzyl O-[3(R)-acetoxy-2(S)-benzyloxycarbonylamino-1-oxo-butyl]-N-trifluoroacetyl-L-serinate (1.42 g).

reactant | O-acetyl-N-benzyloxycarbonyl-L-threonine | 1 g | C(C)(=O)O[C@@H]([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O)C | C14H17NO6
reactant | benzyl N-trifluoroacetyl-L-serinate | 987 mg | FC(C(=O)N[C@@H](CO)C(=O)OCC1=CC=CC=C1)(F)F | C12H12F3NO4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | benzyl O-[3(R)-acetoxy-2(S)-benzyloxycarbonylamino-1-oxo-butyl]-N-trifluoroacetyl-L-serinate | 1.42 g | C(C)(=O)O[C@@H]([C@@H](C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)C | C26H27F3N2O9
